US09120761B2
(g) 2-(2-(2-(2-((2-Fluoro-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetamide (I62)
To a solution of tert-butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-fluorophenyl)piperidine-1-carboxylate (I61) (0.049 g, 0.081 mmol) in THF (3 mL) was added TFA (0.20 mL, 2.6 mmol). The resulting mixture was then stirred at room temperature for 20 hours then 40° C. for 24 hours. The volatiles were removed by evaporation under reduced and DCM (2 mL) and TFA (1.00 mL, 13.1 mmol) were added. After stirring at 30° C. for 18 hours the mixture was concentrated under reduced pressure and the residue azeotroped twice with toluene (10 mL) to give the title compound (I62) (0.037 g, 91%). LCMS Method C: rt 4.84 min; m/z 502.1[M+H]+.

reactant | tert-butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-fluorophenyl)piperidine-1-carboxylate | 0.081 mmol, 0.049 g | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=C(C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)F)C=CC=C1)=O | C31H35F4N5O3
reactant | TFA | 2.6 mmol, 0.20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 13.1 mmol, 1.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(2-(2-(2-((2-Fluoro-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetamide | 0.037 g, 91% | FC1=C(C=CC(=C1)C1CCNCC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)N)C(F)(F)F | C26H27F4N5O
